US08735414B2
To a solution of (S)-N-allyl-6-(3-cyano-6-cyclopropyl-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (70 mg, 0.13 mmol) and PdCl2(dppf) (10 mg, 0.013 mmol) in THF (1 mL) was added NaBH(AcO)3 (40 mg, 0.19 mmol). The mixture was stirred at room temperature for 16 hrs and CH2Cl2 (20 mL) was added. The mixture was washed with sat. aq. NH4C1 (20 mL), concentrated and purified on silica gel eluting with 0 to 10% ethyl acetate in CH2Cl2 to provide (S)-6-(3-cyano-6-cyclopropyl-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (54 mg, 83%). Melting point: 181-184° C.; MS m/z 513.2 M+H+; 1H NMR (500 MHz, CDCl3): δ8.28 (1H, s), 8.72 (1H, d, J=2.0 Hz), 8.60 (2H, d, J=9.0 Hz), 8.19 (1H, d, J=2.5 Hz), 8.18 (1H, d, J=2.0 Hz), 8.02 (1H, d, J=9.0 Hz), 7.76 (1H, s), 7.65 (1H, d, J=8.0 Hz), 7.21-7.20 (1H, m), 7.05 (1H, d, J=9.0 Hz), 5.50 (1H, s), 4.02-3.98 (1H, m), 2.02-1.96 (1H, m), 1.31 (3H, d, J=6.0 Hz), 0.98-0.96 (2H, m), 0.75-0.72 (2H, m).

reactant | (S)-N-allyl-6-(3-cyano-6-cyclopropyl-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 0.13 mmol, 70 mg | C(C=C)N(S(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=CC=C2C1C#N)C1CC1)C1=NC=CC=N1)[C@H](C(F)(F)F)C | C27H23F3N6O2S
reactant | NaBH(AcO)3 | 0.19 mmol, 40 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.013 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-6-(3-cyano-6-cyclopropyl-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 54 mg, 83% | C(#N)C1=C(N(C2=CC(=CC=C12)C1CC1)C1=NC=CC=N1)C1=CC=C(C=N1)S(=O)(=O)N[C@H](C(F)(F)F)C | C24H19F3N6O2S
